US05180419
Preparation of 9-Isopropyl-9-methyl-6H-1,3-dioxolo[4,5-g]imidazo[2,1-α]isoindole-6,8(9H)dione
A mixture of 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-3,4-(methylenedioxy) benzoic acid (3.40 g, 11.2 mmol) and acetic anhydride (20 mL, 0.211 mol) is stirred overnight at reflux temperature. Concentration in vacuo and recrystallized from ethyl acetate to yield the title product as a white solid, 1.50 g (46.9%), mp 237°-242° C., identified by NMR spectral analysis.

reactant | 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-3,4-(methylenedioxy) benzoic acid | 11.2 mmol, 3.40 g | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)O)C=CC2=C1OCO2)C | C15H16N2O5
reactant | acetic anhydride | 0.211 mol, 20 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 9-Isopropyl-9-methyl-6H-1,3-dioxolo[4,5-g]imidazo[2,1-α]isoindole-6,8(9H)dione | C(C)(C)C1(N=C2N(C(C=3C=CC4=C(C23)OCO4)=O)C1=O)C | C15H14N2O4
